US06774082B2
Preparation of Terpyridine Tetramer Bonded to Silica Gel
A 0.9 g amount of hydroxymethyl terpyridine tetramer was dissolved in 20 ml of dioxane. Under Argon, 0.12 g of NaH were added and stirred for 15 minutes at room temperature. After adding 0.40 g of epoxide modified silica gel, the temperature was raised to 90° C. for 72 hours. Upon cooling, the mixture was filtered and the silica was washed with a large amount of CH3OH. The product was dried in a vacuum oven at 50° C. for 8 hours. The reaction is shown schematically below:

reactant | hydroxymethyl terpyridine | OCC=1C(=NC=CC1)C1=NC=CC=C1C1=NC=CC=C1 | C16H13N3O
reactant | NaH | 0.12 g | [H-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Terpyridine | C=1C=CN=C(C1)C=2C=CC=C(N2)C=3C=CC=CN3 | C15H11N3
